US07285557B2
3,3-Difluoro-1-[2-(2-methoxy-4-nitrophenoxy)ethyl]pyrrolidine
3,3-Difluoropyrrolidine (0.4589 g, 2.0859 mmol) and 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene (0.5757 g, 2.0859 mmol) were combined in DMF (5 mL). Triethylamine (0.6332 g, 6.2577 mmol) was added. The reaction was heated to 80° C. and stirred for 18 h. The reaction was cooled to RT and diluted with EtOAc (50 mL). The organics were washed with water (3×100 mL), dried over MgSO4, filtered and concentrated. The residue was purified by chromatatron (1:1 Hex:EtOAc) to give 0.173 g (0.5728 mmol, 27%) of the product as a light yellow oil. 1H NMR (CDCl3) δ 7.90 (d, 1H, 9 Hz), 7.75 (s, 1H), 6.89 (d, 1H, J=9 Hz), 4.21 (t, 2H, J=5.6 Hz), 3.94 (s, 3H), 3.07 (t, 2H, J=13.3 Hz), 2.99 (t, 2H, J=5.7 Hz), 2.89 (t, 2H, J=7.1 Hz), 2.28 (m, 2H).

reactant | 3,3-Difluoropyrrolidine | 2.0859 mmol, 0.4589 g | FC1(CNCC1)F | C4H7F2N
reactant | 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene | 2.0859 mmol, 0.5757 g | BrCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H10BrNO4
reactant | Triethylamine | 6.2577 mmol, 0.6332 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 3,3-Difluoro-1-[2-(2-methoxy-4-nitrophenoxy)ethyl]pyrrolidine | 0.5728 mmol, 0.173 g, 27% | FC1(CN(CC1)CCOC1=C(C=C(C=C1)[N+](=O)[O-])OC)F | C13H16F2N2O4
